US04362550
3-Phenyl-4,5-dihydro-1,2,4-triazin-6(1H)-one
To 5.8 g. of methyl hippurate dissolved in 35 ml THF was added 3.9 g. of triphenylphosphine and 10.0 g. of carbon tetrachloride in 15 ml THF. The mixture was heated to about 50° C. for 6 hours and 3.0 g. of hydrazine hydrate was added. The mixture was refluxed for about 18 hours, cooled and poured into water. The solution was extracted with ethyl acetate, and the organic phase was then extracted with 1 N HCl. The acidic extract was neutralized with 6 N sodium hydroxide and the product was extracted with ethyl acetate. The organic phase was dried over anhydrous magnesium sulfate and concentrated under vacuum. The solid was recrystallized from methanol to yield about 0.200 g. of solid. Yield 4%. M.P.=212°-216° C.

reactant | methyl hippurate | C(CNC(=O)C1=CC=CC=C1)(=O)OC | C10H11NO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
reactant | hydrazine hydrate | O.NN
solvent | THF | 35 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 3-Phenyl-4,5-dihydro-1,2,4-triazin-6(1H)-one | C1(=CC=CC=C1)C1=NNC(CN1)=O | C9H9N3O
